US06599902B2
5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2 g, 11.96 mmol) reacted with cis-2,6-dimethylpiperazine (2.66 g, 14.36 mmol) to give 2.27 g (72%) of 3,5-dimethyl-4-[(3R,5S)-3,5-dimethyl-piperazine-1-carbonyl]-1H-pyrrole-2-carbaldehyde.

reactant | 5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 11.96 mmol, 2 g | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
reactant | cis-2,6-dimethylpiperazine | 14.36 mmol, 2.66 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
product | 3,5-dimethyl-4-[(3R,5S)-3,5-dimethyl-piperazine-1-carbonyl]-1H-pyrrole-2-carbaldehyde | 2.27 g, 72% | CC1=C(NC(=C1C(=O)N1C[C@H](N[C@H](C1)C)C)C)C=O | C14H21N3O2
